US07338960B2
({4-[((1R)-1-{6-[4-Acetyl-3-(methyloxy)phenyl]-2-pyridinyl}pentyl)oxy]-2-methylphenyl}oxy)acetic acid
Ethyl [(4-{[(1R)-1-(6-bromo-2-pyridinyl)pentyl]oxy}-2-methylphenyl)oxy]acetate (50 mg, 0.11 mmol) was dissolved in DME (0.76 mL) and then treated with 1-[2-(methyloxy)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethanone (41 mg, 0.15 mmol) followed by Pd(PPh3)4 (13 mg, 0.01 mmol) and then a solution of Na2CO3 (49 mg, 0.46 mmol) in water (0.42 mL). The resulting mixture was then placed under nitrogen and heated at 80° C. for 18 h. The solvents were the removed under vacuum (Genevac) and the residue purified by mass directed autoprep HPLC) to give the title compound as an oil (39 mg).

reactant | Ethyl [(4-{[(1R)-1-(6-bromo-2-pyridinyl)pentyl]oxy}-2-methylphenyl)oxy]acetate | 0.11 mmol, 50 mg | BrC1=CC=CC(=N1)[C@@H](CCCC)OC1=CC(=C(C=C1)OCC(=O)OCC)C | C21H26BrNO4
reactant | 1-[2-(methyloxy)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethanone | 0.15 mmol, 41 mg | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C(C)=O | C15H21BO4
reactant | Na2CO3 | 0.46 mmol, 49 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 0.76 mL | COCCOC | C4H10O2
solvent | water | 0.42 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.01 mmol, 13 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ({4-[((1R)-1-{6-[4-Acetyl-3-(methyloxy)phenyl]-2-pyridinyl}pentyl)oxy]-2-methylphenyl}oxy)acetic acid | 39 mg | C(C)(=O)C1=C(C=C(C=C1)C1=CC=CC(=N1)[C@@H](CCCC)OC1=CC(=C(C=C1)OCC(=O)O)C)OC | C28H31NO6
